US07592373B2
4.14.a. Ethyl 2-(2-diethylaminoethoxy)-5-nitrobenzoate
1.06 g (5.00 mmol) of ethyl 2-fluoro-5-nitrobenzoate and 0.58 mL (5.00 mmol) of 2-diethylaminoethanol are dissolved in 20 mL of DMF and at 0° C. 0.36 g (7.45 mmol) of sodium hydride (50%) is added. The mixture is stirred for 45 minutes at 0° C., poured onto ice water, and finally extracted three times with ethyl acetate. The organic phase is dried over sodium sulfate, the solvent is eliminated and the residue is purified through a silica gel column with petroleum ether/ethyl acetate (4:1) as eluant. Yield: 0.30 g (19% of theory); C15H22N2O5 (M=310.35); calc.: molecular ion peak (M+H)+: 311; found: molecular ion peak (M+H)+: 311; Rf value: 0.1 (silica gel, petroleum ether/ethyl acetate (4:1)).

reactant | ethyl 2-fluoro-5-nitrobenzoate | 5.00 mmol, 1.06 g | FC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C9H8FNO4
reactant | 2-diethylaminoethanol | 5.00 mmol, 0.58 mL | C(C)N(CCO)CC | C6H15NO
reactant | sodium hydride | 7.45 mmol, 0.36 g | [H-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(2-diethylaminoethoxy)-5-nitrobenzoate | C(C)N(CCOC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-])CC | C15H22N2O5
